US06583135B2
Preparation of 3-Benzoyl-9-(4-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-9-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.738 g, 2.0 mmol) and tetrakis(triphenylphosphine)palladium (0.23 g, 0.20 mmol) in dimethoxyethane (5.0 mL) and a solution of 4-methoxyphenylboronic acid (0.365 g, 2.4 mmol) in dimethoxyethane (5.0 mL) and sodium carbonate solution (2 M, 7.0 mL) were reacted in a manner similar to Preparation 1. Column chromatography (silica gel, 20-60% EtOAc/heptane) afforded 0.29 g (37%) of the title compound as a yellow foam: mp 140-145° C.; 1H NMR (300 MHz, CDCl3) δ 7.92, 7.59-7.49, 7.43, 7.37-7.30, 7.03-6.94, 4.09-3.98, 3.85, 3.75-3.65, 3.25-3.14, 2.95-2.85.

reactant | 3-benzoyl-9-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 2.0 mmol, 0.738 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)Br | C19H17BrN2O
reactant | 4-methoxyphenylboronic acid | 2.4 mmol, 0.365 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
solvent | sodium carbonate | 2 M, 7.0 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.20 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-9-(4-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.29 g, 37% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)C1=CC=C(C=C1)OC | C26H24N2O2
